Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Estrogens
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
___ 08:00PM   ___ PTT-80.4* ___
___ 02:40PM   ___ PTT-93.3* ___
___ 12:36PM   LACTATE-1.6
___ 12:30PM   GLUCOSE-121* UREA N-10 CREAT-0.6 SODIUM-137 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-22 ANION GAP-14
___ 12:30PM   ALT(SGPT)-31 AST(SGOT)-28 LD(LDH)-196 ALK 
PHOS-101 TOT BILI-0.7
___ 12:30PM   LIPASE-26
___ 12:30PM   ALBUMIN-3.6
___ 12:30PM   WBC-10.5* RBC-4.14 HGB-12.2 HCT-38.1 MCV-92 
MCH-29.5 MCHC-32.0 RDW-13.0 RDWSD-43.5
___ 12:30PM   PLT COUNT-263
___ 09:13AM   ___ PTT-54.8* ___
___ 03:05AM   ___ PTT-104.0* ___
___ 05:38PM URINE  HOURS-RANDOM
___ 05:38PM URINE  UCG-NEGATIVE
___ 05:38PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:38PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 05:38PM URINE  RBC-<1 WBC-<1 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 05:38PM URINE  MUCOUS-RARE*
___ 04:28PM   ALT(SGPT)-32 AST(SGOT)-28 CK(CPK)-72 ALK 
PHOS-124* TOT BILI-0.7
___ 04:28PM   LIPASE-30
___ 04:28PM   ALBUMIN-4.2
___ 04:28PM   WBC-10.4* RBC-4.52 HGB-13.4 HCT-41.4 MCV-92 
MCH-29.6 MCHC-32.4 RDW-13.0 RDWSD-43.8
___ 04:28PM   NEUTS-57.4 ___ MONOS-6.9 EOS-4.2 
BASOS-1.1* IM ___ AbsNeut-5.95 AbsLymp-3.11 AbsMono-0.71 
AbsEos-0.44 AbsBaso-0.11*
___ 04:28PM   PLT COUNT-273
___ 04:28PM   ___ PTT-30.2 ___
___ 11:18AM   GLUCOSE-101* UREA N-14 CREAT-0.7 SODIUM-137 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-21* ANION GAP-14
___ 11:18AM   estGFR-Using this
___ 11:18AM   D-DIMER-4656*

CTA Chest
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Findings suspicious for an acute thrombus of the left portal 
vein as 
described above, incompletely assessed on the current exam. A 
dedicated 
abdominal CT is recommended. 
3. Diffuse ground-glass parenchymal changes are nonspecific and 
may reflect 
combination of small airways disease and atelectasis. 

CT A/P
1. Occlusive thrombus is seen within the left portal vein.  In 
addition, 
nonocclusive thrombus is seen within the distal main portal vein 
with 
extension into the anterior right portal vein and likely also to 
a lesser 
extent in the posterior branch of the right portal vein. 
2. The SMV and splenic vein are patent.  No portal venous 
collaterals are 
identified. 
3. No inflammatory process in the abdomen or pelvis to explain 
the portal 
venous thrombosis. 
4. Fibroid uterus. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old lady with a past medical history of 
pulmonary
embolism in the setting of taking birth control and MTHFR 
mutation who presents with a unprovoked portal vein thrombus.

#Portal vein thrombus
CT abdomen shows portal vein thrombus without collaterals
suggesting an acute process, there is no inflammatory process
seen in the imaging as a cause.  Hematology was consulted and
recommended heparin drip while she is an inpatient but she was 
transitioned to Apixiban upon discharge (10mg PO BID through 
___, then 5mg PO BID ongoing). 
She will complete a hypercoagulable work-up as an outpatient 
(scheduled ___.  They
recommended age-appropriate cancer screenings. At the time of 
discharge, she was
not having any pain, able to tolerate PO with normal LFTs. 
[] recommend bilateral diagnostic mammogram after discharge
given calcifications in left breast noted > ___ year ago.
[] Pap/HPV testing normal in ___. Next due ___
[] Hypercoagulable workup with Heme (scheduled ___

#Cough
#Shortness of Breath 
CTA negative for PE but did show Diffuse ground-glass 
parenchymal
changes which could be small airways disease. She does endorse
exercise induced asthma. 
[] Should have PFTs as outpatient 

#Depression
Continue home Lexapro

#Seasonal allergies
Continue home Zyrtec

#Essential tremor
Hold propranolol for now in the setting of low blood pressure

Transitional issues
[] Apixiban 10mg PO BID through ___, then transition to 5mg PO 
BID for life
[] recommend bilateral diagnostic mammogram after discharge
given calcifications in left breast noted > ___ year ago.
[] Pap/HPV testing normal in ___. Next due ___
[] Hypercoagulable workup with Heme (scheduled ___
[] Outpatient PFTs to further characterize lung disease seen on 
CT

Greater than 40 mins were spent on discharge planning and 
coordination of care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Propranolol 10 mg PO BID:PRN essential tremor  
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 6 Days 
10mg PO BID through ___, then 5mg PO BID for life 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*66 Tablet Refills:*0 
2.  Cetirizine 10 mg PO DAILY  
3.  Escitalopram Oxalate 10 mg PO DAILY  
4.  Propranolol 10 mg PO BID:PRN essential tremor   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Portal vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for shortness of breath, nausea and abdominal 
pain. You were found to have a blood clot in the veins that 
drain near your liver, which explains your symptoms. For this we 
have started you on Apixiban (blood thinner) which you will take 
according to the following schedule

- Apixiban 10mg by mouth twice a day through the end of ___, 
then
- Apixiban 5mg by mouth twice a day from ___ moving forward 
(indefinitely).

We have scheduled you follow up with Hematology on ___ (see 
below). 

It was a pleasure taking care of you.

Your ___ Team
 
Followup Instructions:
___